US04126689
To a stirred solution of 15 parts of ethyl 4-[(4-chlorophenyl)-amino]-1-piperidinecarboxylate, 5.4 parts of N,N-diethylethanamine and 160 parts of benzene is added dropwise 11.07 parts of 4-methoxybenzeneacetyl chloride at a temperature between 32° to 40° C. After the addition is complete, the whole is stirred and refluxed for 3 hours. The reaction mixture is cooled and filtered. The filtrate is washed successively with water, sodium hydrogen carbonate solution and water, dried, filtered and evaporated in vacuo. The oily residue is crystallized from a mixture of 56 parts of 1,1'-oxybisethane and 40 parts of hexane. The crude solid product is filtered off and recrystallized from a mixture of benzene and 1,1'-oxybisethane, yielding 3 parts of ethyl 4-{N-(4-chlorophenyl)-N-[(4-methoxyphenyl)acetyl]amino}-1-piperidinecarboxylate; mp. 137° C.

reactant | ethyl 4-[(4-chlorophenyl)-amino]-1-piperidinecarboxylate | ClC1=CC=C(C=C1)NC1CCN(CC1)C(=O)OCC | C14H19ClN2O2
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzeneacetyl chloride | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | ethyl 4-{N-(4-chlorophenyl)-N-[(4-methoxyphenyl)acetyl]amino}-1-piperidinecarboxylate | ClC1=CC=C(C=C1)N(C(CC1=CC=C(C=C1)OC)=O)C1CCN(CC1)C(=O)OCC | C23H27ClN2O4
